US07799805B2
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-amine
Cyclopropylamine (1.14 mL, 16.3 mmol) was added to a sol. of methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester (1.76 g, 4.65 mmol) in EtOH (46 mL). The mixture was heated to reflux for 2 h, and cyclopropylamine (0.57 mL, 8.2 mmol) was added again. The mixture was heated to reflux overnight, and was allowed to cool to rt. The solvents were removed under reduced pressure, and the residue was purified by FC (EtOAc/heptane 50:50→7M NH3/MeOH) to yield the title compound (865 mg, 68%). LC-MS: tR=0.92 min; ES+: 340.39.

reactant | Cyclopropylamine | 16.3 mmol, 1.14 mL | C1(CC1)N | C3H7N
reactant | methanesulfonic acid 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl ester | 4.65 mmol, 1.76 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCOS(=O)(=O)C)(C)C | C16H27ClO4SSi
reactant | cyclopropylamine | 8.2 mmol, 0.57 mL | C1(CC1)N | C3H7N
solvent | EtOH | 46 mL | CCO | C2H6O
product | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-amine | 865 mg, 68% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNC1CC1)(C)C | C18H30ClNOSi
